US05612377
1-Hydroxy-1-(1-ethylpropyl)-3-(2-phenoxyphenyl)urea
A solution of 2-phenoxybenzoic acid (2.63 g, 12.3 mmole), triethylamine (1.8 mL, 13 mmole) and diphenylphosphoryl azide (2.9 mL, 13.5 mmole) in toluene (50 mL) was heated at 95° C. for 2 hours. The reaction was cooled to ambient temperature and N-(1-ethylpropyl)hydroxylamine (1.9 g, 18.4 mmole) was added as a solid. The reaction was maintained overnight then concentrated under vacuum to provide the crude product as a yellow oil. The residue was partitioned between diethyl ether (100 mL) and water (100 ml). The fractions were separated and the aqueous fraction was extracted with additional portions of diethyl ether (3×50 mL). The combined organic fractions were dried over sodium sulfate, filtered and concentrated. The residue was recrystallized from hexanes.backslash.ethyl acetate to provide 2.3 g of the desired product as a white crystalline solid, m.p. 141.2°-141.8° C. Analysis: Calculated for C18H22N2O3 : %C, 68.77; %H, 7.05; %N, 8.91; Found: %C, 68.23; %H, 6.8; %N, 8.89.

reactant | 2-phenoxybenzoic acid | 12.3 mmole, 2.63 g | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
reactant | triethylamine | 13 mmole, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 13.5 mmole, 2.9 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | N-(1-ethylpropyl)hydroxylamine | 18.4 mmole, 1.9 g | C(C)C(CC)NO | C5H13NO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Hydroxy-1-(1-ethylpropyl)-3-(2-phenoxyphenyl)urea | 2.3 g | ON(C(=O)NC1=C(C=CC=C1)OC1=CC=CC=C1)C(CC)CC | C18H22N2O3
